US08119655B2
Compound 84: 3′-(ethylsulfonyl)-2-(2-fluoro-5-methylpyridin-3-yl)-4-methyl-5-(trifluoromethyl)biphenyl-3-amine
A mixture of 3-(3′-(ethylsulfonyl)-4-methyl-3-nitro-5-(trifluoromethyl)biphenyl-2-yl)-2-fluoro-5-methylpyridine (6.4 g, 13.3 mmol), iron (3.7 g, 66.3 mmol), HOAc, (32 mL), and H2O (11 mL) was heated at 80° C. for 2 h. After completion the reaction was concentrated in vacuo. The residue was reconstituted in dichloromethane (100 mL), filtered, and rinsed with dichloromethane (3×30 mL). The organic phase was washed with sat. NaHCO3 (1×100 mL) and brine (1×50 mL), dried (MgSO4), filtered, and concentrated in vacuo. Purification by silica gel chromatography (1:1 hexanes/EtOAc) gave 5.0 g (83%) of the title compound as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ 7.93 (s, 1H), 7.67-7.7.71 (m, 2H), 7.53 (t, 1H), 7.46-7.48 (m, 1H), 7.42 (s, 1H), 6.93 (s, 1H), 5.09 (s, 2H), 3.11 (q, 2H), 2.27 (s, 3H), 2.21 (s, 3H), 0.85 (t, 3H). MS (ES) [m+H] calc'd for C22H20F4N2O2S, 453; found 453.3.

reactant | 3-(3′-(ethylsulfonyl)-4-methyl-3-nitro-5-(trifluoromethyl)biphenyl-2-yl)-2-fluoro-5-methylpyridine | 13.3 mmol, 6.4 g | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C(C(=C(C(=C1)C(F)(F)F)C)[N+](=O)[O-])C=1C(=NC=C(C1)C)F | C22H18F4N2O4S
reactant | HOAc | 32 mL | CC(=O)O | C2H4O2
catalyst | iron | 66.3 mmol, 3.7 g | [Fe] | Fe
solvent | H2O | 11 mL | O | H2O
product | 3′-(ethylsulfonyl)-2-(2-fluoro-5-methylpyridin-3-yl)-4-methyl-5-(trifluoromethyl)biphenyl-3-amine | 5.0 g, 83% | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C(C(=C(C(=C1)C(F)(F)F)C)N)C=1C(=NC=C(C1)C)F | C22H20F4N2O2S
